US09238647B2
Step B: 8-(4-methylphenyl)imidazo[1,2-a]pyridine-6-carboxylic acid
A degassed solution of n-propanol (40 mL) and water (10 mL) was added to a mixture of ethyl 8-bromoimidazo[1,2-a]pyridine-6-carboxylate (1.0 g, 3.72 mmol), (4-methylphenyl)boronic acid (0.66 g, 4.83 mmol), (tetrakistriphenylphosphine) palladium(0) (0.22 g, 0.19 mmol) and potassium carbonate (1.54 g, 11.2 mmol). The mixture was heated to 90° C. After 18 h, sodium hydroxide (3N in water; 3 mL) and methanol (20 mL) was added. The mixture was stirred at 90° C. for another 48 h. The mixture was cooled to ambient temperature and filtered with Celite. The filtrate was concentrated. The water was azeotropically removed with repeated concentration from acetonitrile. The crude mixture was taken up in methanol and small amount of water and loaded onto a 25 g pre-equilibrated SCX column. The column was washed with 5× column volumes of methanol to remove impurities. The column was then washed with 3× column volumes of 2 M ammonia/methanol to elude the titled product (0.90 g): LC-MS [M+1]=253.2.

reactant | ethyl 8-bromoimidazo[1,2-a]pyridine-6-carboxylate | 3.72 mmol, 1.0 g | BrC=1C=2N(C=C(C1)C(=O)OCC)C=CN2 | C10H9BrN2O2
reactant | (4-methylphenyl)boronic acid | 4.83 mmol, 0.66 g | CC1=CC=C(C=C1)B(O)O | C7H9BO2
reactant | potassium carbonate | 11.2 mmol, 1.54 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydroxide | 3N, 3 mL | [OH-].[Na+]
solvent | methanol | 20 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
solvent | n-propanol | 40 mL | C(CC)O | C3H8O
product | 8-(4-methylphenyl)imidazo[1,2-a]pyridine-6-carboxylic acid | CC1=CC=C(C=C1)C=1C=2N(C=C(C1)C(=O)O)C=CN2 | C15H12N2O2
